US06476045B2
6-Chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine-3-carboxaldehyde
N-(Chloromethylene)-N-methylmethanaminium chloride (1.17 g, 9.1 mmol) was added to a solution of 6-chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine (Description 17, 0.8 g, 3.0 mmol) in dimethylformamide (50 mL) and the mixture was stirred at 75° C. overnight. The mixture was cooled and poured onto a mixture of ice (500 g) and aqueous sodium hydroxide (2M, 500 mL). The solid was collected, dissolved in dichloromethane, washed with brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was triturated with ether and the solid was collected and dried in vacuo to give the title compound as a colorless solid (0.7 g, 79%). 1H NMR (360 MHz, CDCl3) δ 10.06 (1H, s), 9.75 (1H, d, J 1.8 Hz), 7.77 (2H, d, J 8.5 Hz), 7.75 (1H, d, J 9.4 Hz), 7.53 (2H, d, J 8.5 Hz), and 7.56 (1H, dd, J 9.4, 1.8 Hz). m/z (ES+) 291, 293 (M+1).

reactant | N-(Chloromethylene)-N-methylmethanaminium chloride | 9.1 mmol, 1.17 g | [Cl-].ClC=[N+](C)C
reactant | 6-chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine | 3.0 mmol, 0.8 g | ClC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)Cl | C13H8Cl2N2
reactant | sodium hydroxide | 2M, 500 mL | [OH-].[Na+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 6-Chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine-3-carboxaldehyde | 0.7 g, 79% | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)Cl)C=O | C14H8Cl2N2O
